US05703075
Morpholine (4.0 mL, 45 mmol) is dissolved in EtOAc (50 mL) and saturated K2CO3 (40 mL) added. The mixture is cooled in an ice bath and trichloroacetyl chloride (5.0 mL, 45 mmol) added drop-wise. The reaction is stirred for 20 min then diluted with EtOAc (200 mL) and washed with aq. K2CO3 (20 mL), water (2×50 mL) and brine (30 mL). The organic layer is dried over MgSO4. Rotary evaporation gives trichloroacetylmorpholine.

reactant | Morpholine | 45 mmol, 4.0 mL | N1CCOCC1 | C4H9NO
reactant | K2CO3 | 40 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | trichloroacetyl chloride | 45 mmol, 5.0 mL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | trichloroacetylmorpholine | ClC(C(=O)N1CCOCC1)(Cl)Cl | C6H8Cl3NO2
